US07902375B2
2-(5-Methyl-tetrazol-2-yl)-ethylamine
This compound is prepared by an analogous procedure to intermediate CI2 by replacing [2-(1H-Tetrazol-5-yl)-ethyl]-carbamic acid tert-butyl ester in step 1 with 5-Methyl-2H-tetrazole and by replacing ethyliodide with (2-Bromo-ethyl)-carbamic acid tert-butyl ester.

reactant | 2-(1-Ethyl-1H-tetrazol-5-yl)-ethylamine | C(C)N1N=NN=C1CCN | C5H11N5
reactant | 5-Methyl-2H-tetrazole | CC=1N=NNN1 | C2H4N4
reactant | ethyliodide | C(C)I | C2H5I
reactant | (2-Bromo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
product | 2-(5-Methyl-tetrazol-2-yl)-ethylamine | CC=1N=NN(N1)CCN | C4H9N5
